US07259266B2
Step 1. Preparation of (4-chloro-2-methylphenyl)(3-methoxyphenyl)methanone
To a chilled stirred solution of 3-methoxybenzoyl chloride (5.0 g, 29.3 mmole) in acetone/water (3:1) was added 4-chloro-2-methylphenylboronic acid (5.0 g, 29.3 mmole) followed by PdCl2 (0.259 g, 5 mole %) and sodium carbonate (23.87 mL, 47 mmole). The solution was allowed to stir at room temperature overnight. The reaction workup and purification was conducted according to Example 9a, Step 1 producing the title compound (5.8 g, 76%). This ester was of suitable purity to use without further purification: ESLRMS m/z 261.1 (M+H).

reactant | 3-methoxybenzoyl chloride | 29.3 mmole, 5.0 g | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | 4-chloro-2-methylphenylboronic acid | 29.3 mmole, 5.0 g | ClC1=CC(=C(C=C1)B(O)O)C | C7H8BClO2
reactant | sodium carbonate | 47 mmole, 23.87 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone water | CC(=O)C.O
catalyst | PdCl2 | 0.259 g | Cl[Pd]Cl
product | (4-chloro-2-methylphenyl)(3-methoxyphenyl)methanone | ClC1=CC(=C(C=C1)C(=O)C1=CC(=CC=C1)OC)C | C15H13ClO2
